US07041687B2
2-(2-Amino-acetylamino)-2-(3-chloro-phenyl)-N-(1H-indazol-5-yl)-acetamide (I-74):
To a solution of ({[(3-chloro-phenyl)-(1H-indazol-5-ylcarbamoyl)-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester (0.09 mmol) in dichloromethane (2.5 mL) at 0° C. was added trifluoroacetic acid (2.5 mL) and the reaction mixture was stirred for 1 hour. The reaction mixture was concentrated in vacuo to afford compound the title compound (9 mg, 24%). 1H NMR (400 MHz, DMSO-d6) δ 3.8(2H, m), 5.8(1H, m), 7.4–7.7(5H, m), 7.9–8.2(4H, m), 9.3–9.4(1H, m), 10.6 (1H, s), 13.0(1H, br s); MS (ES+): m/e=358.3(40%), 134.3(100%).

reactant | ({[(3-chloro-phenyl)-(1H-indazol-5-ylcarbamoyl)-methyl]-carbamoyl}-methyl)-carbamic acid tert-butyl ester | 0.09 mmol | C(C)(C)(C)OC(NCC(NC(C(NC=1C=C2C=NNC2=CC1)=O)C1=CC(=CC=C1)Cl)=O)=O | C22H24ClN5O4
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 2-(2-Amino-acetylamino)-2-(3-chloro-phenyl)-N-(1H-indazol-5-yl)-acetamide | 9 mg, 24% | NCC(=O)NC(C(=O)NC=1C=C2C=NNC2=CC1)C1=CC(=CC=C1)Cl | C17H16ClN5O2
